US04018802
Step B. Preparation of Methyl 8-methylsulfonyl-8-methoxycarbonyl-12-acetoxy-13-(3-trifluoromethylphenoxy)tridecanoate
A 50% oil dispersion of sodium hydride (2.11 g., 0.044 mole) in mineral oil is washed with petroleum ether and then suspended in dry dimethylformamide (30 ml.) under a nitrogen atmosphere at room temperature. To this suspension is added a solution of dimethyl-2-methylsulfonyl-azelate (11.8 g., 0.04 mole) in dry dimethylformamide (30 ml.). After the evolution of hydrogen is completed, the mixture is cooled to 5° C. in an ice bath and a solution of 1-iodo-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane (18.3 g., 0.044 mole) in dry dimethylformamide (30 ml.) is added dropwise. After 48 hours, ether is added to the reaction mixture to precipitate sodium iodide which is removed by filtration. The filtrate is concentrated in vacuo to give a residue which is diluted with water, acidified with 6N hydrochloric acid, and extracted with ether. The ether extracts are washed with water until neutral, dried over anhydrous magensium sulfate, and concentrated in vacuo to give the title compound (20.5 g., 0.035 mole, 88%).

reactant | sodium hydride | 0.044 mole, 2.11 g | [H-].[Na+]
reactant | dimethyl-2-methylsulfonyl-azelate | 0.04 mole, 11.8 g | COC(C(CCCCCCC(=O)OC)S(=O)(=O)C)=O | C12H22O6S
reactant | hydrogen | [H][H] | H2
reactant | 1-iodo-4-acetoxy-5-(3-trifluoromethylphenoxy)pentane | 0.044 mole, 18.3 g | ICCCC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O | C14H16F3IO3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | Methyl 8-methylsulfonyl-8-methoxycarbonyl-12-acetoxy-13-(3-trifluoromethylphenoxy)tridecanoate | 0.035 mole, 20.5 g, 88% | CS(=O)(=O)C(CCCCCCC(=O)OC)(CCCC(COC1=CC(=CC=C1)C(F)(F)F)OC(C)=O)C(=O)OC | C26H37F3O9S
